US08222248B2
A mixture of 4-amino-N-(5,6-dimethylpyridin-2-yl)-3-nitrobenzamide (470 mg, 1.64 mmol) and of 5% platinum on carbon (60 mg) in 50 mL of ethyl acetate/ethanol (1:1) was stirred in under a hydrogen balloon. When the reaction was complete by LC/MS, the mixture was filtered through Celite to remove catalyst, and the filtrate was removed under reduced pressure to afford 3,4-diamino-N-(5,6-dimethylpyridin-2-yl)-benzamide.

reactant | 4-amino-N-(5,6-dimethylpyridin-2-yl)-3-nitrobenzamide | 1.64 mmol, 470 mg | NC1=C(C=C(C(=O)NC2=NC(=C(C=C2)C)C)C=C1)[N+](=O)[O-] | C14H14N4O3
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 60 mg | [Pt] | Pt
solvent | ethyl acetate ethanol | 50 mL | C(C)(=O)OCC.C(C)O
product | 3,4-diamino-N-(5,6-dimethylpyridin-2-yl)-benzamide | NC=1C=C(C(=O)NC2=NC(=C(C=C2)C)C)C=CC1N | C14H16N4O
